US06498163B1
To a room temperature suspension of sodium hydride (38 mg of a 60% suspension of NaH in oil) in 5 mL of dimethylformamide was added diethyl cyanomethylphosphonate (150 μL, 0.93 mmol). The reaction mixture was stirred at room temperature for 15 minutes, then 4-ethylamino-2-phenylamino-pyrimidine-5-carbaldeyde (200 mg, 0.83 mmol) in 2 mL of dimethylformamide was added, and the mixture was stirred at room temperature for 10 minutes. The reaction mixture was partitioned between brine and ethyl acetate. The organic layer was washed with water, dried over magnesium sulfate, and concentrated in vacuo The residue was purified by flash chromatography eluting with 1:1 ethyl acetate:hexane. The fractions containing product were concentrated, and hexane was added to the residue. The resultant solid was collected by filtration to give 91 mg (43%) of 3-(4-ethylamino-2-phenylamino-pyrimidin-5-yl)acrylonitrile, mp 244-246° C. Concentration of the filtrate provided an additional 68 mg (32%) of product.

reactant | sodium hydride | [H-].[Na+]
reactant | diethyl cyanomethylphosphonate | 0.93 mmol, 150 μL | C(#N)CP(OCC)(OCC)=O | C6H12NO3P
reactant | 4-ethylamino-2-phenylamino-pyrimidine-5-carbaldeyde | 0.83 mmol, 200 mg | C(C)NC1=NC(=NC=C1C=O)NC1=CC=CC=C1 | C13H14N4O
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | 3-(4-ethylamino-2-phenylamino-pyrimidin-5-yl)acrylonitrile | 91 mg, 43% | C(C)NC1=NC(=NC=C1C=CC#N)NC1=CC=CC=C1 | C15H15N5
